US08278482B2
1-(4-(2-Amino-2-methylpropyl)piperazin-1-yl)ethanone dihydrochloride
A solution of 1-(4-(2-methyl-2-nitropropyl)piperazin-1-yl)ethanone (7.2 g, 19.4 mmol) in a mixture of methanol and water (50:10 mL) was added to a steel pressure vessel equipped with a magnetic stir bar. The vessel was flushed with nitrogen while Raney nickel (50% aqueous suspension, 1.0 mL) was added in one portion. The vessel was sealed and pressurized with hydrogen (100 psi). The suspension was stirred for 5 min and the hydrogen released until the pressure was just above 0 psi. This was repeated once more and the vessel was finally pressurized to 500 psi. The reaction was stirred at room temperature for 17 h. The hydrogen was released and the suspension was filtered through Celite®. The solid was washed with small portions of water (5×40 mL) to give a colorless filtrate. The filtrate was brought to pH 2 with 6N HCl. The filtrate was concentrated in vacuo to a yellow oil. The oil was purified by Prep-LC utilizing a gradient of methanol and water with 0.05% acetic acid as a modifier. Fractions were pooled and concentrated to give foamy solid (6.91 g, 81%). 1H NMR (CDCl3, 400 MHz): δ 1.33 (s, 6H), 2.12 (s, 3H), 2.58 (s, 2H), 2.63-2.72 (dt, J=4.8, 4H), 3.57-3.60 (m, 4H). LRMS (ESI+) for C10H21N3O (199.1); Found: 200 (MH+).

reactant | 1-(4-(2-methyl-2-nitropropyl)piperazin-1-yl)ethanone | 19.4 mmol, 7.2 g | CC(CN1CCN(CC1)C(C)=O)(C)[N+](=O)[O-] | C10H19N3O3
reactant | HCl | 6N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-(4-(2-Amino-2-methylpropyl)piperazin-1-yl)ethanone dihydrochloride | 6.91 g, 81% | Cl.Cl.NC(CN1CCN(CC1)C(C)=O)(C)C | InChI=1S/C10H21N3O.2ClH/c1-9(14)13-6-4-12(5-7-13)8-10(2,3)11;;/h4-8,11H2,1-3H3;2*1H
